US06936608B2
A mixture of 2-bromo-1-fluoro-4-nitrobenzene (2.0 g, 9.1 mmol) and 2-(1,1,1-tributylstannyl)pyridine (3.36 g, 9.11 mmol) in THF (80 ml) and DMF (10 ml) was degassed with nitrogen. [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (200 mg, 3 mol %) was added, and the mixture was heated at reflux for 24 h. More 2-bromo-1-fluoro-4-nitrobenzene (0.60 g, 2.7 mmol) and catalyst (100 mg, 1.5 mol %) were added, and the mixture was heated as before for another 24 h. The solvent was removed in vacuo, and the residue was purified by flash chromatography on silica gel, eluting with 50% dichloromethane in isohexane, then 100% dichloromethane, then 100% ethyl acetate (UV detection). 2-(2-Fluoro-5-nitrophenyl)pyridine was isolated as a colourless solid (2.11 g, 100%): 1H NMR (400 MHz, CDCl3) δ 7.30-7.37 (2H, m), 7.80-7.87 (2H, m), 8.27 (1H, m), 8.78 (1H, m), 9.01 (1H, dd, J 3.1, 6.7 Hz); MS (ES+) m/z 219 [M+H]+.

reactant | 2-bromo-1-fluoro-4-nitrobenzene | 9.1 mmol, 2.0 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | 2-(1,1,1-tributylstannyl)pyridine | 9.11 mmol, 3.36 g | CCCC[Sn](CCCC)(CCCC)C1=CC=CC=N1
reactant | 2-bromo-1-fluoro-4-nitrobenzene | 2.7 mmol, 0.60 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3BrFNO2
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-(2-Fluoro-5-nitrophenyl)pyridine | FC1=C(C=C(C=C1)[N+](=O)[O-])C1=NC=CC=C1 | C11H7FN2O2
